US07893085B2
3-(4-Bromo-2-fluoro-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide
A mixture of 3-(4-bromo-2-fluoro-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester (36 mg, 0.09 mmol), 1N aqueous NaOH solution (0.10 ml, 0.10 mmol) and methanol (2 ml) was heated at 65° C. for 45 minutes. The reaction mixture was concentrated in vacuo then azeotroped with toluene (2×2 ml) to give a solid residue. The solid residue was dissolved in anhydrous THF (2 ml) and O—((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)hydroxylamine (22 mg, 0.18 mmol), EDCI (22 mg, 0.12 mmol), HOBt (17 mg, 0.13 mmol) and DIPEA (48 μl, 0.28 mmol) were added. After stirring overnight at ambient temperature, the reaction mixture was concentrated in vacuo to afford a yellow residue. The resultant residue was dissolved in ethyl acetate (30 ml), washed with water (20 ml) followed by brine (10 ml) before the organic layer was isolated then dried over sodium sulfate and concentrated in vacuo to afford a yellow oil. The oil was purified by flash chromatography (Si-SPE, pentane:ethyl acetate, gradient 90:10 to 50:50) to afford the title compound as a yellow oil (18 mg, 41%). LCMS (method B): RT=3.03 min, M+H+=496/498.

reactant | 3-(4-bromo-2-fluoro-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester | 0.09 mmol, 36 mg | C(C)OC(=O)C1=C(C=2C=NC=CC2S1)NC1=C(C=C(C=C1)Br)F | C16H12BrFN2O2S
reactant | NaOH | 0.10 mmol, 1N, 0.10 ml | [OH-].[Na+]
reactant | O—((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)hydroxylamine | 0.18 mmol, 22 mg | CC1(OC[C@@H](O1)CON)C | C6H13NO3
reactant | EDCI | 0.12 mmol, 22 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.13 mmol, 17 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.28 mmol, 48 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2 ml | CO | CH4O
product | 3-(4-Bromo-2-fluoro-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | 18 mg, 41% | CC1(OC[C@@H](O1)CONC(=O)C1=C(C=2C=NC=CC2S1)NC1=C(C=C(C=C1)Br)F)C | C20H19BrFN3O4S
